US06346619B1
2,4,6-Tris(2-hydroxy-4-(1-octyloxycarbonylpropoxy)phenyl)-1,3,5-triazine
10.1 g (0.025 mol) of 2,4,6-tris(2-hydroxy-4-(1-ethoxycarbonylpropoxy)phenyl)-1,3,5-triazine are refluxed for 10 h with 1 g (0.004 mol) of dibutyltin oxide and 15.8m) (0.1 mol) of octanol (isomer mixture) in 50 ml of xylene until ethanol is no longer split off. The reaction mixture is then cooled, washed with water and dried using MgSO4. The solvent is concentrated and the residue is chromatographed over silica gel, giving a yellowish resinous substance of the following structure:

reactant | 2,4,6-tris(2-hydroxy-4-(1-ethoxycarbonylpropoxy)phenyl)-1,3,5-triazine | 0.025 mol, 10.1 g | OC1=C(C=CC(=C1)OC(CC)C(=O)OCC)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OC(CC)C(=O)OCC)O)C1=C(C=C(C=C1)OC(CC)C(=O)OCC)O | C39H45N3O12
reactant | dibutyltin oxide | 0.004 mol, 1 g | C(CCC)[Sn](CCCC)=O
reactant | octanol | 0.1 mol | C(CCCCCCC)O | C8H18O
reactant | ethanol | C(C)O | C2H6O
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,4,6-Tris(2-hydroxy-4-(1-octyloxycarbonylpropoxy)phenyl)-1,3,5-triazine | OC1=C(C=CC(=C1)OC(CC)C(=O)OCCCCCCCC)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OC(CC)C(=O)OCCCCCCCC)O)C1=C(C=C(C=C1)OC(CC)C(=O)OCCCCCCCC)O | C57H81N3O12
